US08975254B2
c) 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylic acid
Ethyl 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylate (0.5 g, 1.687 mmol) was dissolved in methanol (10 ml). The mixture was cooled to 0° C. and sodium hydroxide 2 M solution (1.687 ml) was added. The reaction mixture was allowed to warm to RT with stirring. Stirring was two days during which more sodium hydroxide 2 M solution (3.4 ml in total) was added. The last hour was stirred at 40° C. Methanol was evaporated and water was added. The pH was adjusted to 1 with 1M HCl, which precipitated the product out of the solution. The mixture was filtered, precipitate washed with water and dried with vacuum at 40° C. 1H-NMR (400 MHz; d6-DMSO): δ, 5.82 (s, 2H), 7.17-7.38 (m, 6H), 8.17 (d, 1H), 9.39 (s, 1H), 14.35 (bs, 1H).

reactant | Ethyl 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylate | 1.687 mmol, 0.5 g | C(C1=CC=CC=C1)N1C=NC(=C1)C1=NNC(=C1)C(=O)OCC | C16H16N4O2
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-(1-benzyl-1H-imidazol-4-yl)-1H-pyrazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C=NC(=C1)C1=NNC(=C1)C(=O)O | C14H12N4O2
